US05705531
(1S,3aS,5S,7aR)-1-[(E)-Guanidinoimino]methyl-5-phenyl-7a-methylperhydroinden-3a-ol (I-aa)
A solution of 0.57 g of (1S,3aS,5S,7aR)-1-formyl-5-phenyl-7a-methylperhydroinden-3a-ol and 1.50 g of aminoguanidine hydrogencarbonate in 30 ml of 0.01N hydrochloric acid and 80 ml of dioxane was kept at room temperature for 3 days and then evaporated to dryness under reduced pressure. The crude product was purified by flash-chromatography (SiO2) using chloroform/methanol/28% ammonium hydroxide 78/20/2 as the eluant. The fractions containing the title compound were collected and evaporated to dryness. The residue was triturated with ethanol/ethyl acetate to give 0.48 g of the title compound (I-aa) as a white solid.

reactant | (1S,3aS,5S,7aR)-1-formyl-5-phenyl-7a-methylperhydroinden-3a-ol | 0.57 g | C(=O)[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC=CC=C1)O | C17H22O2
reactant | aminoguanidine hydrogencarbonate | 1.50 g | C(O)(O)=O.NNC(=N)N
solvent | hydrochloric acid | 0.01N, 30 ml | Cl | ClH
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | (1S,3aS,5S,7aR)-1-[(E)-Guanidinoimino]methyl-5-phenyl-7a-methylperhydroinden-3a-ol | 0.48 g | N(C(=N)N)\N=C\[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC=CC=C1)O | C18H26N4O
